US07935832B2
2-Ethyl-3-oxo-2,3-dihydro-1H-isoindole-1-carboxylic acid (0.061 g, 0.3 mmol, prepared as described below) was dissolved in anhydrous dimethylformamide (5 ml) and to this was added 1-hydroxybenzotriazole (0.045 g, 0.3 mmol), diisopropylethylamine (0.105 ml, 0.6 mmol), [(2,4-dichlorophenyl)methyl]amine (0.054 g, 0.3 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.114 g, 0.3 mmol). The mixture was stirred for 3 hrs and then left to stand overnight. The mixture was diluted with water (50 ml) and a little saturated aqueous sodium chloride solution and extracted with ethyl acetate (3×20 ml). The organic fractions were combined and washed with 10% aqueous sodium carbonate (50 ml) and then with saturated aqueous sodium chloride solution (50 ml), dried over magnesium sulphate and evaporated to give a gum. The gum was purified by mass-directed automated HPLC to give N-[(2,4-dichlorophenyl)methyl]-2-ethyl-3-oxo-2,3-dihydro-1H-isoindole-1-carboxamide (0.056 g).

reactant | 2-Ethyl-3-oxo-2,3-dihydro-1H-isoindole-1-carboxylic acid | 0.3 mmol, 0.061 g | C(C)N1C(C2=CC=CC=C2C1=O)C(=O)O | C11H11NO3
reactant | 1-hydroxybenzotriazole | 0.3 mmol, 0.045 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.6 mmol, 0.105 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | [(2,4-dichlorophenyl)methyl]amine | 0.3 mmol, 0.054 g | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.3 mmol, 0.114 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | N-[(2,4-dichlorophenyl)methyl]-2-ethyl-3-oxo-2,3-dihydro-1H-isoindole-1-carboxamide | 0.056 g | ClC1=C(C=CC(=C1)Cl)CNC(=O)C1N(C(C2=CC=CC=C12)=O)CC | C18H16Cl2N2O2
